US07906645B2
N-(3,4-Dichlorophenyl)piperazine-1-carboxamide
3,4-Dichlorophenylisocyanate (3.43 g) and tert-butyl piperazine-1-carboxylate (3.40 g) were stirred for 18 hours in chloroform (20 ml) at room temperature. Trisamine resin (1 g) was added and the mixture stirred for 3 hours, then filtered off. Trifluoroacetic acid (10 ml) was added to the filtrate and this mixture was stirred for two hours. The reaction mixture was concentrated in vacuo and the resulting oil separated between ethyl acetate (100 ml) and saturated aqueous sodium bicarbonate solution (100 ml). The ethyl acetate layer was separated, dried over magnesium sulphate, filtered then concentrated in vacuo to give the title compound (5.47 g).

reactant | 3,4-Dichlorophenylisocyanate | 3.43 g | ClC=1C=C(C=CC1Cl)N=C=O | C7H3Cl2NO
reactant | tert-butyl piperazine-1-carboxylate | 3.40 g | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | Trisamine | 1 g | C(C(CO)(CO)N)O | C4H11NO3
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
product | N-(3,4-Dichlorophenyl)piperazine-1-carboxamide | 5.47 g | ClC=1C=C(C=CC1Cl)NC(=O)N1CCNCC1 | C11H13Cl2N3O
